US07906521B2
Following the procedure for 2-(3-fluoro-anilino)-4-methoxybenzoic acid, using aniline in place of 3-fluoroaniline, 2-anilino-4-methoxybenzoic acid was obtained.

reactant | 2-(3-fluoro-anilino)-4-methoxybenzoic acid | FC=1C=C(NC2=C(C(=O)O)C=CC(=C2)OC)C=CC1 | C14H12FNO3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 2-anilino-4-methoxybenzoic acid | N(C1=CC=CC=C1)C1=C(C(=O)O)C=CC(=C1)OC | C14H13NO3
